* /home/ash98/downloads/esim-1.1.3/src/subcircuitlibrary/74ls83a/74ls83a.cir

.include full_adder.sub
.include Ideal_npn1.lib
x4 net-_u3-pad9_ net-_u3-pad13_ net-_u4-pad2_ net-_u8-pad1_ net-_x3-pad3_ full_adder
x3 net-_u3-pad10_ net-_u3-pad14_ net-_x3-pad3_ net-_u7-pad1_ net-_x2-pad3_ full_adder
x2 net-_u3-pad11_ net-_u3-pad15_ net-_x2-pad3_ net-_u6-pad1_ net-_x1-pad3_ full_adder
x1 net-_u3-pad12_ net-_u3-pad16_ net-_x1-pad3_ net-_u5-pad1_ net-_u9-pad1_ full_adder
* u3  net-_u1-pad10_ net-_u1-pad8_ net-_u1-pad3_ net-_u1-pad1_ net-_u1-pad11_ net-_u1-pad7_ net-_u1-pad4_ net-_u1-pad16_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ adc_bridge_8
* u4  net-_u1-pad13_ net-_u4-pad2_ adc_bridge_1
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_r9-pad1_ net-_r7-pad1_ net-_r5-pad1_ net-_r3-pad1_ net-_r1-pad1_ dac_bridge_5
* u1  net-_u1-pad1_ net-_q3-pad1_ net-_u1-pad3_ net-_u1-pad4_ net-_r10-pad1_ net-_q4-pad1_ net-_u1-pad7_ net-_u1-pad8_ net-_q5-pad1_ net-_u1-pad10_ net-_u1-pad11_ net-_q1-pad3_ net-_u1-pad13_ net-_q1-pad1_ net-_q2-pad1_ net-_u1-pad16_ port
* u8  net-_u8-pad1_ net-_u2-pad1_ d_inverter
* u7  net-_u7-pad1_ net-_u2-pad2_ d_inverter
* u6  net-_u6-pad1_ net-_u2-pad3_ d_inverter
* u5  net-_u5-pad1_ net-_u2-pad4_ d_inverter
q5 net-_q5-pad1_ net-_q5-pad2_ net-_q1-pad3_ Ideal_npn2
r9  net-_r9-pad1_ net-_q5-pad2_ 1k
r10  net-_r10-pad1_ net-_q5-pad1_ 100
q4 net-_q4-pad1_ net-_q4-pad2_ net-_q1-pad3_ Ideal_npn2
r7  net-_r7-pad1_ net-_q4-pad2_ 1k
r8  net-_r10-pad1_ net-_q4-pad1_ 100
q3 net-_q3-pad1_ net-_q3-pad2_ net-_q1-pad3_ Ideal_npn2
r5  net-_r5-pad1_ net-_q3-pad2_ 1k
r6  net-_r10-pad1_ net-_q3-pad1_ 100
q2 net-_q2-pad1_ net-_q2-pad2_ net-_q1-pad3_ Ideal_npn2
r3  net-_r3-pad1_ net-_q2-pad2_ 1k
r4  net-_r10-pad1_ net-_q2-pad1_ 100
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Ideal_npn2
r1  net-_r1-pad1_ net-_q1-pad2_ 1k
r2  net-_r10-pad1_ net-_q1-pad1_ 100
* u9  net-_u9-pad1_ net-_u2-pad5_ d_inverter
a1 [net-_u1-pad10_ net-_u1-pad8_ net-_u1-pad3_ net-_u1-pad1_ net-_u1-pad11_ net-_u1-pad7_ net-_u1-pad4_ net-_u1-pad16_ ] [net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ ] u3
a2 [net-_u1-pad13_ ] [net-_u4-pad2_ ] u4
a3 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ ] [net-_r9-pad1_ net-_r7-pad1_ net-_r5-pad1_ net-_r3-pad1_ net-_r1-pad1_ ] u2
a4 net-_u8-pad1_ net-_u2-pad1_ u8
a5 net-_u7-pad1_ net-_u2-pad2_ u7
a6 net-_u6-pad1_ net-_u2-pad3_ u6
a7 net-_u5-pad1_ net-_u2-pad4_ u5
a8 net-_u9-pad1_ net-_u2-pad5_ u9
* Schematic Name: adc_bridge_8, NgSpice Name: adc_bridge
.model u3 adc_bridge(fall_delay=1.0e-9 in_high=2.0 rise_delay=1.0e-9 in_low=0.2 ) 
* Schematic Name: adc_bridge_1, NgSpice Name: adc_bridge
.model u4 adc_bridge(fall_delay=1.0e-9 in_high=2.0 rise_delay=1.0e-9 in_low=1.0 ) 
* Schematic Name: dac_bridge_5, NgSpice Name: dac_bridge
.model u2 dac_bridge(out_undef=0.5 out_low=0.0 out_high=5.0 t_rise=1.0e-9 t_fall=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u8 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u7 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u6 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u5 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u9 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
